US04472433
Preparation of sodium 2-[2-amino-3-(2-chlorophenylthio)phenyl]acetate
A mixture of 2-oxo-7-(2-chlorophenylthio)indoline (5.0 g.), sodium hydroxide (1.5 g.), dioxane (15 ml.) and water (15 ml.) was refluxed for 14 hours with stirring. The reaction mixture was concentrated under reduced pressure. The residue was recrystallized from water twice and washed with diethyl ether to give crystals of the captioned compound (3.5 g.), mp 209° to 212° C.

reactant | 2-oxo-7-(2-chlorophenylthio)indoline | 5.0 g | O=C1NC2=C(C=CC=C2C1)SC1=C(C=CC=C1)Cl | C14H10ClNOS
reactant | sodium hydroxide | 1.5 g | [OH-].[Na+]
reactant | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 15 ml | O | H2O
product | sodium 2-[2-amino-3-(2-chlorophenylthio)phenyl]acetate | NC1=C(C=CC=C1SC1=C(C=CC=C1)Cl)CC(=O)[O-].[Na+] | InChI=1S/C14H12ClNO2S.Na/c15-10-5-1-2-6-11(10)19-12-7-3-4-9(14(12)16)8-13(17)18;/h1-7H,8,16H2,(H,17,18);/q;+1/p-1
